US03931235
3-Benzylsulfinyl-4-hydroxy-6-methyl-2-pyrone
3-Benzylthio-4-hydroxy-6-methyl-2-pyrone (7.45 g., 0.0282 mol) and 30% hydrogen peroxide (3.7 g., 0.033 mol) were combined in 30 ml. glacial acetic acid and stirred at room temperature for 20 hours. The solution was then diluted with a mixture of toluene and ethanol (5:1) and warmed in vacuo to codistil the acetic acid. The recovered tan solid was recrystallized from toluene (DARCO) to give 5.4 g. (69 percent) of the desired product: m.p. 150°-153°C. One additional recrystallization from toluene gave the pure compound: m.p. 155°-156°C.

reactant | 3-Benzylthio-4-hydroxy-6-methyl-2-pyrone | 0.0282 mol, 7.45 g | C(C1=CC=CC=C1)SC=1C(OC(=CC1O)C)=O | C13H12O3S
reactant | hydrogen peroxide | 0.033 mol, 3.7 g | OO | H2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 3-Benzylsulfinyl-4-hydroxy-6-methyl-2-pyrone | 69 percent | C(C1=CC=CC=C1)S(=O)C=1C(OC(=CC1O)C)=O | C13H12O4S
